US09278951B2
Synthesis of 1,3-bis(quinoxalin-2-ylmethyl)-4,5-dichloroimidazolium bromide
4,5-dichloroimidazole (1.37 g, 10 mmol) will be dissolved in a minimum amount of acetonitrile and potassium hydroxide (0.62 g, 11 mmol) will be added. The mixture will be stirred at reflux until the potassium hydroxide is consumed, approximately 30 min. 2-(Bromomethyl)quinoxaline (2.23 g, 10.0 mmol) will be added and the mixture will be returned to reflux for 3 h. The mixture will be filtered hot to remove the potassium bromide generated. A second addition of 2-(bromomethyl)quinoxaline (2.23 g, 10.0 mmol) will be made to the reaction solution, which will be returned to reflux for 6 h. Removal of the volatile components under reduced pressure should yield the product.

reactant | 4,5-dichloroimidazole | 10 mmol, 1.37 g | ClC=1N=CNC1Cl | C3H2Cl2N2
reactant | potassium hydroxide | 11 mmol, 0.62 g | [OH-].[K+]
reactant | 2-(Bromomethyl)quinoxaline | 10.0 mmol, 2.23 g | BrCC1=NC2=CC=CC=C2N=C1 | C9H7BrN2
reactant | 2-(bromomethyl)quinoxaline | 10.0 mmol, 2.23 g | BrCC1=NC2=CC=CC=C2N=C1 | C9H7BrN2
solvent | acetonitrile | C(C)#N | C2H3N
product | 1,3-bis(quinoxalin-2-ylmethyl)-4,5-dichloroimidazolium bromide | [Br-].N1=C(C=NC2=CC=CC=C12)C[N+]1=CN(C(=C1Cl)Cl)CC1=NC2=CC=CC=C2N=C1 | InChI=1S/C21H15Cl2N6.BrH/c22-20-21(23)29(12-15-10-25-17-6-2-4-8-19(17)27-15)13-28(20)11-14-9-24-16-5-1-3-7-18(16)26-14;/h1-10,13H,11-12H2;1H/q+1;/p-1
